### PR TITLE
feat: Add Pollock's (tetrahedral numbers) conjecture

### LINKED ISSUE #1780: Wikipedia: Pollock's Conjecture
### What is the conjecture
Pollock (tetrahedral numbers) conjecture: Every positive integer is the sum of at most 5 tetrahedral numbers.

More precisely, Salzer and Levine conjecture that every number is the sum of at most 5 tetrahedral numbers and in fact that there are exactly 241 numbers (the terms of A000797) that require 5 tetrahedral numbers, the largest of which is 343867.

* https://en.wikipedia.org/wiki/Pollock's_conjectures
* https://oeis.org/A000797

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [ ] I plan on adding this conjecture to the repository
- [X] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by jdhruv555**
Adds formalization of Pollock's (tetrahedral numbers) conjecture.

## Changes
- Define `tetrahedral` function: \(T_n = n(n+1)(n+2)/6\)
- Formalize main conjecture: every positive integer is the sum of at most 5 tetrahedral numbers
- Add Salzer-Levine strengthening: the set of integers requiring 5 tetrahedral numbers is finite
- Add references: Wikipedia, OEIS A000797, Dickson, Pollock (1850), Salzer-Levine (1958), MathWorld

Closes #1780

### CODE REVIEW

File: FormalConjectures/Wikipedia/PollocksConjecture.lean [hunk 1]
```diff
@@ -0,0 +1,64 @@
...
+    ∃ f : Fin 5 → ℕ, N = ∑ i, tetrahedral (f i) := by
+  sorry
+
+/--
+Salzer–Levine strengthening (as stated on Wikipedia/OEIS):
+the set of positive integers that are *not* a sum of at most 4 tetrahedral numbers is finite.
+-/
+@[category research open, AMS 11]
+theorem pollock_tetrahedral.finite_exceptions :
+    Set.Finite {N : ℕ | 0 < N ∧ ¬ ∃ f : Fin 4 → ℕ, N = ∑ i, tetrahedral (f i)} := by
```
Comment (felixpernegger) [inline FormalConjectures/Wikipedia/PollocksConjecture.lean]:
```suggestion
    Set.Finite {N : ℕ | ∀ f : Fin 4 → ℕ, ¬ N = ∑ i, tetrahedral (f i)} := by
```

The condition 0 < N is unnecessary (doesnt change finiteness). Probably the negation should be pushed (else ```simp``` changes the goal).

File: FormalConjectures/Wikipedia/PollocksConjecture.lean [hunk 2]
```diff
@@ -0,0 +1,64 @@
...
+  n * (n + 1) * (n + 2) / 6
+
+/-! ## Statements -/
+
+/--
+Pollock's (tetrahedral numbers) conjecture:
+every positive integer is the sum of at most 5 tetrahedral numbers.
+-/
+@[category research open, AMS 11]
+theorem pollock_tetrahedral (N : ℕ) (hN : 0 < N) :
```
Comment (felixpernegger) [inline FormalConjectures/Wikipedia/PollocksConjecture.lean]: condition ```hN``` is redundant (for N=0 take 0 +0 +0 +0 +0)

File: FormalConjectures/Wikipedia/PollocksConjecture.lean (hunk 1 above)
Comment (felixpernegger) [reply FormalConjectures/Wikipedia/PollocksConjecture.lean]: Actually, this should be changed.
The conjecture states that all such numbers are \leq 343867, and the formalisation you wrote does not imply that, since the set could still be finite, but there are numbers bigger than 343867 in the set.

**Comment by jdhruv555** [comment]
Hi @felixpernegger ,I think I've implemented the suggested parameters . have a look once & let me know if there's something that I've missed.

File: FormalConjectures/Wikipedia/PollocksConjecture.lean [hunk 3]
```diff
@@ -0,0 +1,71 @@
...
+    ∃ f : Fin 5 → ℕ, N = ∑ i, tetrahedral (f i) := by
+  sorry
+
+/--
+Salzer–Levine strengthening (as stated on Wikipedia/OEIS):
+there are exactly 241 integers that are not a sum of 4 tetrahedral numbers, and the largest is `343867`.
+-/
+@[category research open, AMS 11]
+theorem pollock_tetrahedral.salzer_levine :
+    NotSumOfFourTetrahedral.Finite ∧
```
Comment (felixpernegger) [inline FormalConjectures/Wikipedia/PollocksConjecture.lean]: You can remove this line (```NotSumOfFourTetrahedral.Finite ∧```), since it follows from either one of other ones.

I would also suggest you remove ```NotSumOfFourTetrahedral.ncard = 241``` as well, since if one were to prove ```IsGreatest NotSumOfFourTetrahedral 343867```, the other statement follows immediately (just calculation)

maybe put ```NotSumOfFourTetrahedral.ncard = 241``` as its own connjecture (and put it as high_school difficulty, since it follows directly) instead?

**Review by felixpernegger — COMMENTED** [review]
rest looks good to me

File: FormalConjectures/Wikipedia/PollocksConjecture.lean (hunk 3 above)
Comment (jdhruv555) [reply FormalConjectures/Wikipedia/PollocksConjecture.lean]: understood , on it .

**Comment by jdhruv555** [comment]
Just implemented your recent suggestions . Please have a look @felixpernegger

File: FormalConjectures/Wikipedia/PollocksConjecture.lean [hunk 4]
```diff
@@ -0,0 +1,75 @@
...
+-/
+@[category research open, AMS 11]
+theorem pollock_tetrahedral.salzer_levine :
+    IsGreatest NotSumOfFourTetrahedral 343867 := by
+  sorry
+
+/-- As stated on Wikipedia/OEIS (A000797), the set of exceptions has cardinality `241`. -/
+@[category high_school, AMS 11]
+theorem pollock_tetrahedral.ncard_exceptions :
+    NotSumOfFourTetrahedral.ncard = 241 := by
```
Comment (felixpernegger) [inline FormalConjectures/Wikipedia/PollocksConjecture.lean:73]:
```suggestion
    type_of% pollock_tetrahedral.salzer_levine ↔
    NotSumOfFourTetrahedral.ncard = 241  := by
```
Looking at other files, this seems to be the way to write this properly (I am looking at this from the web editor, so please check if this compiles and line breaks are appropriate etc)

**Comment by jdhruv555** [comment]
@felixpernegger done , checked the compilation and linting error . Everything was on point .

**Comment by jdhruv555** [comment]
I think we can merge this now @felixpernegger

File: FormalConjectures/Wikipedia/PollocksConjecture.lean [hunk 5]
```diff
@@ -0,0 +1,76 @@
...
+- [MathWorld: Pollock's Conjecture](https://mathworld.wolfram.com/PollocksConjecture.html)
+-/
+
+namespace PollocksConjecture
+
+open scoped BigOperators
+
+/-! ## Definitions -/
+
+/-- The `n`-th tetrahedral number: \(T_n = n (n+1) (n+2) / 6\). -/
```
Comment (mo271) [inline FormalConjectures/Wikipedia/PollocksConjecture.lean]:
```suggestion
/-- The $n$-th tetrahedral number: $T_n = \frac{n(n+1)(n+2)}{6}$. -/
```

File: FormalConjectures/Wikipedia/PollocksConjecture.lean [hunk 6]
```diff
@@ -0,0 +1,76 @@
...
+def tetrahedral (n : ℕ) : ℕ :=
+  n * (n + 1) * (n + 2) / 6
+
+/-! ## Auxiliary definition -/
+
+/-- The set of natural numbers that are **not** a sum of 4 tetrahedral numbers. -/
```
Comment (mo271) [inline FormalConjectures/Wikipedia/PollocksConjecture.lean]:
```suggestion
/-- The set of natural numbers that are **not** a sum of $4$ tetrahedral numbers. -/
```

File: FormalConjectures/Wikipedia/PollocksConjecture.lean [hunk 7]
```diff
@@ -0,0 +1,76 @@
...
+def NotSumOfFourTetrahedral : Set ℕ :=
+  {N : ℕ | ∀ f : Fin 4 → ℕ, N ≠ ∑ i, tetrahedral (f i)}
+
+/-! ## Statements -/
+
+/--
+Pollock's (tetrahedral numbers) conjecture:
+every integer is the sum of at most 5 tetrahedral numbers.
```
Comment (mo271) [inline FormalConjectures/Wikipedia/PollocksConjecture.lean]:
```suggestion
every integer is the sum of at most $5$ tetrahedral numbers.
```

File: FormalConjectures/Wikipedia/PollocksConjecture.lean [hunk 8]
```diff
@@ -0,0 +1,76 @@
...
+-/
+@[category research open, AMS 11]
+theorem pollock_tetrahedral (N : ℕ) :
+    ∃ f : Fin 5 → ℕ, N = ∑ i, tetrahedral (f i) := by
+  sorry
+
+/--
+Salzer–Levine strengthening (as stated on Wikipedia/OEIS):
+there are exactly 241 integers that are not a sum of 4 tetrahedral numbers, and the largest is `343867`.
```
Comment (mo271) [inline FormalConjectures/Wikipedia/PollocksConjecture.lean]:
```suggestion
there are exactly $241$ integers that are not a sum of $4$ tetrahedral numbers, and the largest is $343867$.
```

File: FormalConjectures/Wikipedia/PollocksConjecture.lean [hunk 9]
```diff
@@ -0,0 +1,76 @@
...
+-/
+@[category research open, AMS 11]
+theorem pollock_tetrahedral.salzer_levine :
+    IsGreatest NotSumOfFourTetrahedral 343867 := by
+  sorry
+
+/-- As stated on Wikipedia/OEIS (A000797), the set of exceptions has cardinality `241`. -/
```
Comment (mo271) [inline FormalConjectures/Wikipedia/PollocksConjecture.lean]:
```suggestion
/-- As stated on Wikipedia/OEIS (A000797), the set of exceptions has cardinality $241$. -/
```
